US07576135B2
2-chloro-N-(4-chloro-3-nitrophenyl)acetamide
The method described in Referential Example 502 was performed by use of 4-chloro-3-nitroaniline and chloroacetyl chloride, whereby the title compound was obtained.

reactant | 4-chloro-3-nitroaniline | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 2-chloro-N-(4-chloro-3-nitrophenyl)acetamide | ClCC(=O)NC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C8H6Cl2N2O3
